US05834501
5-[4-(1-Methyl-7-azaindol-2-ylmethoxy)benzyl]-thiazolidine-2,4-dione (Compound No. 1-81)
A procedure similar to that described in Example 12 was repeated, except that the reaction was conducted using 270 mg of 5-[4-(1-methyl-7-azaindol-2-ylmethoxy)-benzyl]-3-triphenylmethylthiazolidine-2,4-dione (prepared as described in Preparation 82) and 3 ml of a 2:1:3 by volume mixture of acetic acid, water and 1,4-dioxane. After the period allowed for the reaction had elapsed, the reaction mixture was freed from the solvent by distillation under reduced pressure. The residue was purified by column chromatography through silica gel, using a 1:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 157 mg of the title compound, melting at 183°-185° C.

reactant | 5-[4-(1-methyl-7-azaindol-2-ylmethoxy)-benzyl]-3-triphenylmethylthiazolidine-2,4-dione | 270 mg | CN1C(=CC2=CC=CN=C12)COC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C38H31N3O3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 5-[4-(1-Methyl-7-azaindol-2-ylmethoxy)benzyl]-thiazolidine-2,4-dione | 157 mg | CN1C(=CC2=CC=CN=C12)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C19H17N3O3S
